US07071359B1
Preparation of (1R,2R,3aS,8bS)-2,3,3a,8b-tetrahydro-2-hydroxy-1-[(3S,1E)-3-hydroxy-4-methyl-1-octene-6-ynyl]-5-(4-morpholinobutyl)-1H-cyclopenta[b]benzofuran
10 mg of (1R,2R,3aS,8bS)-2,3,3a,8b-tetrahydro-2-hydroxy-1-[(3S,1E)-3-hydroxy-4-methyl-1-octene-6-ynyl]-5-(3-carboxypropyl)-1H-cyclopenta[b]benzofuran was taken and was dissolved in 2 mL of dimethylformamide. After addition of 8.1 mg of 1,1′-carbonyldiimidazole, it was stirred at 50° C. for 1 hour. It was cooled to ambient temperature, and 50 mg morpholine was added. After stirring at 50° C. for 1 hour, an aqueous solution saturated with ammonium chloride was added and extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, and dried with anhydrous sodium sulfate. After filtration and concentration, 2 mL of tetrahydrofurane was added. While stirring on ice, 9.5 mg of lithium aluminium hydride was added and stirring continued at 0° C. for 15 minutes, then at 50° C. for 1 hour. While stirring at ambient temperature, 100 μL of an aqueous solution saturated with sodium sulfate was added, then 400 mg of anhydrous sodium sulfate was added, and stirred for 1 hour. A filtration was performed over celite, and after washing the residue with ethyl acetate, the filtrate was concentrated and subjected to a silicagel column chromatography, to obtain 5.3 mg of the compound presented in the title (48% yield).

reactant | (1R,2R,3aS,8bS)-2,3,3a,8b-tetrahydro-2-hydroxy-1-[(3S,1E)-3-hydroxy-4-methyl-1-octene-6-ynyl]-5-(3-carboxypropyl)-1H-cyclopenta[b]benzofuran | 10 mg | O[C@H]1[C@@H]([C@@H]2[C@@H](OC3=C2C=CC=C3CCCC(=O)O)C1)\C=C\[C@H](C(CC#CC)C)O | C24H30O5
reactant | 1,1′-carbonyldiimidazole | 8.1 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 50 mg | N1CCOCC1 | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (1R,2R,3aS,8bS)-2,3,3a,8b-tetrahydro-2-hydroxy-1-[(3S,1E)-3-hydroxy-4-methyl-1-octene-6-ynyl]-5-(4-morpholinobutyl)-1H-cyclopenta[b]benzofuran | 5.3 mg, 48% yield | O[C@H]1[C@@H]([C@@H]2[C@@H](OC3=C2C=CC=C3CCCCN3CCOCC3)C1)\C=C\[C@H](C(CC#CC)C)O | C28H39NO4
